US07842685B2
Synthesis of 3-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ylamino)propanoic acid
A solution of methyl 3-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ylamino)propanoate (0.067 g, 0.137 mmol) in tetrahydrofuran (1 mL) and methanol (0.5 mL) was added 1 M lithium hydroxide solution (0.4 mL, 0.4 mmol) and stirred at room temperature for 3 hours. The reaction mixture was concentrated in vacuo and the resulting slurry was diluted with water and neutralized (to pH=˜7) with aqueous 1 N HCl solution. The aqueous suspension was extracted with 15% MeOH/CHCl3; the organic extracts were combined, dried (K2CO3), filtered, and concentrated in vacuo to give a crude golden yellow solid (˜0.040 g). Trituration with MeOH afforded the title compound as an off-white amorphous solid. MS (ESI) m/z: Calculated: 475.5; Observed: 476.1 (M++1).

reactant | methyl 3-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ylamino)propanoate | 0.137 mmol, 0.067 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)(C)NCCC(=O)OC | C28H28FN3O2S
reactant | lithium hydroxide | 0.4 mmol, 1 M, 0.4 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 3-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propan-2-ylamino)propanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(C)(C)NCCC(=O)O | C27H26FN3O2S
